2125-12-13 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2125-12-12**] 05:35 PM
 ARTERIAL LINE - START [**2125-12-12**] 08:00 PM
 EKG - At [**2125-12-12**] 11:30 PM
 ARTERIAL LINE - STOP [**2125-12-12**] 11:32 PM
 ARTERIAL LINE - START [**2125-12-13**] 12:10 AM
 BLOOD CULTURED - At [**2125-12-13**] 01:30 AM
 URINE CULTURE - At [**2125-12-13**] 01:30 AM
 EKG - At [**2125-12-13**] 02:04 AM
 FEVER - 102.3
F - [**2125-12-13**] 12:00 AM
   intubated as ABG came back with PCO2 in 100s
   -A-line placed
   -went into SVT to 130s, atrial fib vs MAT. did not break with PO
   toprol, 5mg lopressor IV, IVF. Started amiodarone w/ load.
   -spiked to 102.3, sent blood cx, urine cx, cxr. started vanco/zosyn for
   ? asp PNA.
   -repeat abg w/PCO2 in 50s, decreased MV.
   -pts family [**Name (NI) 420**], do not want to escalate care.
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2125-12-13**] 04:00 AM
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-12-12**] 10:03 PM
   Metoprolol - [**2125-12-12**] 11:40 PM
   Midazolam (Versed) - [**2125-12-13**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-13**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.8
C (100.1
   HR: 117 (76 - 134) bpm
   BP: 81/53(62) {72/46(55) - 134/73(94)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    631 mL
                                                                  2,929 mL
   PO:
             TF:
   IVF:
                                                                    631 mL
                                                                  2,929 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    115 mL
   Urine:
                                                                    925 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -294 mL
                                                                  2,814 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 19.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/55/151/42/13
   Ve: 6.5 L/min
   PaO2 / FiO2: 302
   Physical Examination
   General Appearance: NAD, more alert than yesterday, intubated
   HEENT: NCAT MMM anicteric
   Cardiovascular: tachycardic, irregular rhythm no m/r/g appreciated
   given distant breath sounds
   Respiratory / Chest: Crackles, diffusely diminished throughout
   Abdominal: Soft, Bowel sounds present, Distended, Obese, nontender to
   palp
   Extremities: Right: 1+, Left: 1+ dp pulses, warm, 1+ edema
   Neurologic: Responds to voice and commands, on minimal sedation,
   intubated.
   Labs / Radiology
   203 K/uL
   9.2 g/dL
   164 mg/dL
   1.0 mg/dL
   42 mEq/L
   4.2 mEq/L
   29 mg/dL
   89 mEq/L
   136 mEq/L
   25.5 %
   7.3 K/uL
        [image002.jpg]
                            [**2125-12-12**]  02:43 PM
                            [**2125-12-12**]  04:27 PM
                            [**2125-12-12**]  07:14 PM
                            [**2125-12-12**]  08:17 PM
                            [**2125-12-13**]  01:25 AM
                            [**2125-12-13**]  01:34 AM
                            [**2125-12-13**]  05:16 AM
                            [**2125-12-13**]  05:27 AM
   WBC
   8.2
   7.5
   7.3
   Hct
   35.1
   28.0
   25.5
   Plt
   243
   203
   203
   Cr
   1.0
   1.0
   TropT
   <0.01
   <0.01
   0.01
   TCO2
   55
   46
   46
   40
   Glucose
   141
   164
   Other labs: PT / PTT / INR:13.5/28.3/1.2, CK / CKMB /
   Troponin-T:83//0.01, ALT / AST:[**7-6**], Alk Phos / T Bili:66/0.5, Amylase
   / Lipase:55/27, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:216 IU/L,
   Ca++:9.5 mg/dL, Mg++:1.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   73 yo female with PMH significant for ILD on home O2, diastolic CHF,
   cor pulmonale, s/p liver transplant on immunosuppression,
   post-transplant myeloproliferative disorder s/p CHOP and rituximab who
   was initially admitted to hospital after a mechanical fall for pain
   control who is now being transferred to the MICU for
   hypercarbic/hypoxic respiratory failure in the setting of emesis
   .
   # Hypercarbic/hypoxic respiratory failure: In the setting of witnessed
   emesis prior to decompensation, it is reasonable to suspect aspiration
   pneumonia. Also, given her elevated PCO2 on ABGs, she has had increased
   CO2 retention for some time, and may have worsening underlying
   pulmonary disease. Post-intubation she did well on AC, and during
   rounds was able to tolerate PS. Will continue to wean as tolerated,
   keeping in mind her small reserve. Also in setting of high fever and
   SVT last night, it may not take much for her to decompensate. While the
   family is ok with intubation, they do not wish to escalate level of
   care so pressors and compressions would not be appropriate should she
   decompensate.
   - continue vanco, zosyn for aspiration pneumonia vs HAP
   - wean to PS as tolerated today, rest on AC
   -monitor fluid status to avoid gross pulmonary edema (lasix 40 IV is
   suspect flash)
   -nebs prn
   - consider adding on steroids if underlying disease appears to have
   worsened
   .
   # emesis: unclear cause. History of one dose of ultram written for on
   the floor however it is unclear if this was the cause of her emesis.
   Has not recurred overnight, not tender to palp on exam, LFTs normal.
   Tac level pending. CE negative.
   - OG in place
   - currently resolved but continue NPO for now
   .
   # SVT: Overnight patient went from sinus tachycardia to SVT, ? atrial
   fibrillation w/PACs vs MAT. Unclear at this point if it could be a
   combination of both, in the setting of pulmonary disease and sepsis.
   Was not resolved with po toprol, IV lopressor and finally was started
   on amiodarone drip. She reverted in the morning back to NSR. It is
   possible she may have reverted on her own, given her significant
   improvement today. At this point, would attempt to restart her home
   beta blocker and take off amiodarone (not an ideal medication given her
   underlying pulmonary disease).
   -d/c amiodarone
   -monitor on telemetry
   -restart home toprol 37.5mg po tid
   -if reverts to SVT reload with amiodarone
   .
   # s/p fall: no evidence of fracture. Complained of back pain during
   rounds this AM, which was present while she was on the wards. Will
   avoid more narcotics- currently she is written for bolus fentanyl,
   Tylenol and has lidocaine patch.
   - cont lidocaine patch, tylenol
   - fentanyl for pain now, but may need to wean if ready to extubate
   -PT
   .
   # DM: Good FSBG control. Currently NPO and on sliding scale.
   .
   # ILD: Pulmonary following, resistant to steroids as outpatient
   treatment.  For now, treat for hypercarbic/hypoxic respiratory failure.
   - wean off ventilator if tolerates PS
   - treat PNA
   - alb/atrovent nebs
   -currently no role for steroids
   .
   # PTLD: no known active issues currently.
   - LFTs normal
   - continue tacrolimus, level pending this AM
   .
   # HTN: significantly hypotensive overnight, held beta blocker. Will
   restart today given improvement.
   - Continue outpt metoprolol and monitor
   .
   # Hypothyroidism: Continue Levothyroxine
   .
   # Access: PIV
   .
   # FEN: NPO for now, vitamin D, replete electrolytes prn
   .
   # Prophylaxis: Heparin SC 5000 tid, PPI
   - Bactrim M/W/F
   .
   # Code status: DNR (DNI ok); no escalation in care per family
   .
   # Contact: [**Name (NI) 3326**] [**Name (NI) 5141**] [**Telephone/Fax (1) 7069**], [**Doctor First Name 518**] (daughter)
   [**Telephone/Fax (1) 7085**]
   .
   # Dispo: ICU for now
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 NAUSEA / VOMITING
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-12-13**] 12:08 AM
   Arterial Line - [**2125-12-13**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and exam. Agree with Dr. [**Last Name (STitle) 5096**]
   assessment and plan as outlined. She had a very unstable night with
   fever spike, hypotension, tachycardia but temp now down.  CXR and
   sputum suggest she aspirated. No further episodes of emesis since
   transfer.  We have converted vent to PSV but at 20 cmH2O she is over
   ventilating. Will decrease pressure and decrease FIO2.  She is still
   having back pain so we will up pain meds.
   Time spent 60 min
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2125-12-13**] 17:41 ------

2125-12-14 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2125-12-13**] 09:00 AM
 URINE CULTURE - At [**2125-12-13**] 12:30 PM
   - switched from PS 15/5 to [**11-30**], ABG with Co2 64, switched back to 15/5
   and Co2 remains  60. Need to clarify limit of permissive hypercapnia
   will tolerate during weaning.
   -Poor response to 40 IV lasix, given additional 80 IV lasix x1
   -started on tylenol 1 gm q6h, lopressor 50 TID, d/ced amio
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-12-13**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-12-14**] 04:38 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2125-12-13**] 06:38 AM
   Heparin Sodium (Prophylaxis) - [**2125-12-13**] 04:00 PM
   Fentanyl - [**2125-12-13**] 04:15 PM
   Furosemide (Lasix) - [**2125-12-14**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-14**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.5
C (97.7
   HR: 81 (72 - 120) bpm
   BP: 112/58(76) {83/45(58) - 140/79(106)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,845 mL
                                                                    227 mL
   PO:
             TF:
   IVF:
                                                                  3,695 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    790 mL
                                                                    580 mL
   Urine:
                                                                    790 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,055 mL
                                                                   -353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 375 (300 - 388) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 106
   PIP: 20 cmH2O
   Plateau: 24 cmH2O
   Compliance: 21.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/61/337/40/14
   Ve: 9 L/min
   PaO2 / FiO2: 842
   Physical Examination
   General Appearance: NAD, more alert than yesterday, intubated
   HEENT: NCAT MMM anicteric
   Cardiovascular: tachycardic, irregular rhythm no m/r/g appreciated
   given distant breath sounds
   Respiratory / Chest: Crackles, diffusely diminished throughout
   Abdominal: Soft, Bowel sounds present, Distended, Obese, nontender to
   palp
   Extremities: Right: 1+, Left: 1+ dp pulses, warm, 1+ edema
   Neurologic: Responds to voice and commands, on minimal sedation,
   intubated.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   190 K/uL
   9.4 g/dL
   136 mg/dL
   1.4 mg/dL
   40 mEq/L
   3.5 mEq/L
   31 mg/dL
   91 mEq/L
   138 mEq/L
   26.7 %
   5.8 K/uL
        [image002.jpg]
                            [**2125-12-12**]  07:14 PM
                            [**2125-12-12**]  08:17 PM
                            [**2125-12-13**]  01:25 AM
                            [**2125-12-13**]  01:34 AM
                            [**2125-12-13**]  05:16 AM
                            [**2125-12-13**]  05:27 AM
                            [**2125-12-13**]  07:40 PM
                            [**2125-12-14**]  01:45 AM
                            [**2125-12-14**]  03:12 AM
                            [**2125-12-14**]  04:20 AM
   WBC
   7.5
   7.3
   5.8
   Hct
   28.0
   25.5
   26.7
   Plt
   [**Telephone/Fax (3) 7099**]
   Cr
   1.0
   1.0
   1.4
   TropT
   <0.01
   0.01
   TCO2
   46
   46
   40
   39
   42
   43
   Glucose
   164
   190
   136
   Other labs: PT / PTT / INR:13.5/28.3/1.2, CK / CKMB /
   Troponin-T:83//0.01, ALT / AST:[**7-6**], Alk Phos / T Bili:66/0.5, Amylase
   / Lipase:55/27, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:216 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   73 yo female with PMH significant for ILD on home O2, diastolic CHF,
   cor pulmonale, s/p liver transplant on immunosuppression,
   post-transplant myeloproliferative disorder s/p CHOP and rituximab who
   was initially admitted to hospital after a mechanical fall for pain
   control who is now being transferred to the MICU for
   hypercarbic/hypoxic respiratory failure in the setting of emesis
   .
   # Hypercarbic/hypoxic respiratory failure: In the setting of witnessed
   emesis prior to decompensation, it is reasonable to suspect aspiration
   pneumonia. Also, given her elevated PCO2 on ABGs, she has had increased
   CO2 retention for some time, and may have worsening underlying
   pulmonary disease. Post-intubation she did well on AC, and during
   rounds was able to tolerate PS. Will continue to wean as tolerated,
   keeping in mind her small reserve. Also in setting of high fever and
   SVT last night, it may not take much for her to decompensate. While the
   family is ok with intubation, they do not wish to escalate level of
   care so pressors and compressions would not be appropriate should she
   decompensate.
   - switch abx to flagyl to cover for aspiration PNA
   - wean to PS as tolerated today
   -monitor fluid status to avoid gross pulmonary edema, IV Lasix prn
   -nebs prn
   -will d/w pt and family plans options and status of resp support
   .
   # SVT: Overnight patient went from sinus tachycardia to SVT, ? atrial
   fibrillation w/PACs vs MAT. Unclear at this point if it could be a
   combination of both, in the setting of pulmonary disease and sepsis.
   Was not resolved with po toprol, IV lopressor and finally was started
   on amiodarone drip. She reverted in the morning back to NSR. It is
   possible she may have reverted on her own, given her significant
   improvement today. At this point, would attempt to restart her home
   beta blocker and take off amiodarone (not an ideal medication given her
   underlying pulmonary disease).
   -d/c
d amiodarone
   -monitor on telemetry
   -advanced toprol to 50mg po tid
   -if reverts to SVT reload with amiodarone
   .
   # s/p fall: no evidence of fracture. Complained of back pain during
   rounds this AM, which was present while she was on the wards. Will
   avoid more narcotics- currently she is written for bolus fentanyl,
   Tylenol and has lidocaine patch. Pain well controlled minus lidocaine
   patch
   - d/c lidocaine patch & Tylenol (do not want to mask fever if PNA does
   not respond to Flagyl)
   - fentanyl for pain now, but may need to wean if ready to extubate
   -PT
   .
   # DM: Good FSBG control. Currently NPO and on sliding scale.  Will
   adjust accordingly when tube feeds start
   .
   # ILD: Pulmonary following, resistant to steroids as outpatient
   treatment.  For now, treat for hypercarbic/hypoxic respiratory failure.
   - wean off ventilator if tolerates PS
   - treat PNA
   - alb/atrovent nebs
   -currently no role for steroids
   .
   # emesis: unclear cause. History of one dose of ultram written for on
   the floor however it is unclear if this was the cause of her emesis.
   Has not recurred overnight, not tender to palp on exam, LFTs normal.
   Tac level pending. CE negative.
   - OG in place
   - currently resolved, will start tube feeds today based on nutrition
   recs
   .
   # PTLD: no known active issues currently.
   - LFTs normal
   - continue tacrolimus
   .
   # HTN: significantly hypotensive overnight, held beta blocker. Will
   restart today given improvement.
   - On toprol 50mg TID
   .
   # Hypothyroidism: Continue Levothyroxine
   .
   # Access: PIV  - will plan for PICC eval and possible placement
   .
   # FEN: will switch to tube feeds, vitamin D, replete electrolytes prn
   .
   # Prophylaxis: Heparin SC 5000 tid, PPI
   - Bactrim M/W/F
   .
   # Code status: DNR (DNI ok); no escalation in care per family
   .
   # Contact: [**Name (NI) 3326**] [**Name (NI) 5141**] [**Telephone/Fax (1) 7069**], [**Doctor First Name 518**] (daughter)
   [**Telephone/Fax (1) 7085**]
   .
   # Dispo: ICU for now
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 NAUSEA / VOMITING
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-12-13**] 12:10 AM
   20 Gauge - [**2125-12-13**] 09:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2125-12-15 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - no overnight issues, pt noted to be alert
   - attdg met with family yesterday who would want full resuscitative
   measures for pt
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2125-12-14**] 04:38 AM
   Vancomycin - [**2125-12-14**] 08:08 AM
   Metronidazole - [**2125-12-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2125-12-14**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2125-12-14**] 09:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-15**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 87 (74 - 103) bpm
   BP: 129/69(90) {91/47(62) - 148/86(110)} mmHg
   RR: 16 (15 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    946 mL
                                                                    165 mL
   PO:
             TF:
   IVF:
                                                                    656 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                    140 mL
   Urine:
                                                                  2,170 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,224 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 313 (301 - 361) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.43/61/101/39/12
   Ve: 9.2 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242 K/uL
   9.9 g/dL
   109 mg/dL
   1.1 mg/dL
   39 mEq/L
   4.0 mEq/L
   27 mg/dL
   94 mEq/L
   139 mEq/L
   28.1 %
   6.4 K/uL
        [image002.jpg]
                            [**2125-12-13**]  01:25 AM
                            [**2125-12-13**]  01:34 AM
                            [**2125-12-13**]  05:16 AM
                            [**2125-12-13**]  05:27 AM
                            [**2125-12-13**]  07:40 PM
                            [**2125-12-14**]  01:45 AM
                            [**2125-12-14**]  03:12 AM
                            [**2125-12-14**]  04:20 AM
                            [**2125-12-14**]  03:40 PM
                            [**2125-12-15**]  04:10 AM
   WBC
   7.5
   7.3
   5.8
   6.4
   Hct
   28.0
   25.5
   26.7
   28.1
   Plt
   [**Telephone/Fax (3) 7107**]42
   Cr
   1.0
   1.0
   1.4
   1.1
   TropT
   0.01
   TCO2
   46
   40
   39
   42
   43
   42
   Glucose
   164
   190
   136
   109
   Other labs: PT / PTT / INR:13.0/25.3/1.1, CK / CKMB /
   Troponin-T:83//0.01, ALT / AST:[**7-6**], Alk Phos / T Bili:66/0.5, Amylase
   / Lipase:55/27, Differential-Neuts:81.4 %, Lymph:14.5 %, Mono:2.8 %,
   Eos:1.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:216 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   73 yo female with PMH significant for ILD on home O2, diastolic CHF,
   cor pulmonale, s/p liver transplant on immunosuppression,
   post-transplant myeloproliferative disorder s/p CHOP and rituximab who
   was initially admitted to hospital after a mechanical fall for pain
   control who is now being transferred to the MICU for
   hypercarbic/hypoxic respiratory failure in the setting of emesis
   .
   # Hypercarbic/hypoxic respiratory failure: In the setting of witnessed
   emesis prior to decompensation, it is reasonable to suspect aspiration
   pneumonia. Also, given her elevated PCO2 on ABGs, she has had increased
   CO2 retention for some time, and may have worsening underlying
   pulmonary disease. Post-intubation she did well on AC, and during
   rounds was able to tolerate PS. Will continue to wean as tolerated,
   keeping in mind her small reserve. Also in setting of high fever and
   SVT last night, it may not take much for her to decompensate. While the
   family is ok with intubation, they do not wish to escalate level of
   care so pressors and compressions would not be appropriate should she
   decompensate.
   - switch abx to flagyl to cover for aspiration PNA
   - wean to PS as tolerated today
   -monitor fluid status to avoid gross pulmonary edema, IV Lasix prn
   -nebs prn
   -will d/w pt and family plans options and status of resp support
   .
   # SVT: Overnight patient went from sinus tachycardia to SVT, ? atrial
   fibrillation w/PACs vs MAT. Unclear at this point if it could be a
   combination of both, in the setting of pulmonary disease and sepsis.
   Was not resolved with po toprol, IV lopressor and finally was started
   on amiodarone drip. She reverted in the morning back to NSR. It is
   possible she may have reverted on her own, given her significant
   improvement today. At this point, would attempt to restart her home
   beta blocker and take off amiodarone (not an ideal medication given her
   underlying pulmonary disease).
   -d/c
d amiodarone
   -monitor on telemetry
   -advanced toprol to 50mg po tid
   -if reverts to SVT reload with amiodarone
   .
   # s/p fall: no evidence of fracture. Complained of back pain during
   rounds this AM, which was present while she was on the wards. Will
   avoid more narcotics- currently she is written for bolus fentanyl,
   Tylenol and has lidocaine patch. Pain well controlled minus lidocaine
   patch
   - d/c lidocaine patch & Tylenol (do not want to mask fever if PNA does
   not respond to Flagyl)
   - fentanyl for pain now, but may need to wean if ready to extubate
   -PT
   .
   # DM: Good FSBG control. Currently NPO and on sliding scale.  Will
   adjust accordingly when tube feeds start
   .
   # ILD: Pulmonary following, resistant to steroids as outpatient
   treatment.  For now, treat for hypercarbic/hypoxic respiratory failure.
   - wean off ventilator if tolerates PS
   - treat PNA
   - alb/atrovent nebs
   -currently no role for steroids
   .
   # emesis: unclear cause. History of one dose of ultram written for on
   the floor however it is unclear if this was the cause of her emesis.
   Has not recurred overnight, not tender to palp on exam, LFTs normal.
   Tac level pending. CE negative.
   - OG in place
   - currently resolved, will start tube feeds today based on nutrition
   recs
   .
   # PTLD: no known active issues currently.
   - LFTs normal
   - continue tacrolimus
   .
   # HTN: significantly hypotensive overnight, held beta blocker. Will
   restart today given improvement.
   - On toprol 50mg TID
   .
   # Hypothyroidism: Continue Levothyroxine
   .
   # Access: PIV  - will plan for PICC eval and possible placement
   .
   # FEN: will switch to tube feeds, vitamin D, replete electrolytes prn
   .
   # Prophylaxis: Heparin SC 5000 tid, PPI
   - Bactrim M/W/F
   .
   # Code status: DNR (DNI ok); no escalation in care per family
   .
   # Contact: [**Name (NI) 3326**] [**Name (NI) 5141**] [**Telephone/Fax (1) 7069**], [**Doctor First Name 518**] (daughter)
   [**Telephone/Fax (1) 7085**]
   .
   # Dispo: ICU for now
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 NAUSEA / VOMITING
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-12-13**] 12:10 AM
   20 Gauge - [**2125-12-13**] 09:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2125-12-16 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PICC attempted, will need to go to IR to have it placed on Monday
   -tried on PS 5/5 but only lasted a few minutes and put back on [**9-30**]
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2125-12-15**] 04:00 AM
   Vancomycin - [**2125-12-15**] 08:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2125-12-16**] 12:06 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-12-15**] 08:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-16**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.1
   HR: 86 (80 - 124) bpm
   BP: 113/68(84) {100/56(74) - 146/116(125)} mmHg
   RR: 30 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    703 mL
                                                                    166 mL
   PO:
             TF:
   IVF:
                                                                    643 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    240 mL
   Urine:
                                                                    550 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    153 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 319 (219 - 524) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 8.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242 K/uL
   9.9 g/dL
   109 mg/dL
   1.1 mg/dL
   39 mEq/L
   4.0 mEq/L
   27 mg/dL
   94 mEq/L
   139 mEq/L
   28.1 %
   6.4 K/uL
        [image002.jpg]
                            [**2125-12-13**]  01:25 AM
                            [**2125-12-13**]  01:34 AM
                            [**2125-12-13**]  05:16 AM
                            [**2125-12-13**]  05:27 AM
                            [**2125-12-13**]  07:40 PM
                            [**2125-12-14**]  01:45 AM
                            [**2125-12-14**]  03:12 AM
                            [**2125-12-14**]  04:20 AM
                            [**2125-12-14**]  03:40 PM
                            [**2125-12-15**]  04:10 AM
   WBC
   7.5
   7.3
   5.8
   6.4
   Hct
   28.0
   25.5
   26.7
   28.1
   Plt
   [**Telephone/Fax (3) 7107**]42
   Cr
   1.0
   1.0
   1.4
   1.1
   TropT
   0.01
   TCO2
   46
   40
   39
   42
   43
   42
   Glucose
   164
   190
   136
   109
   Other labs: PT / PTT / INR:13.0/25.3/1.1, CK / CKMB /
   Troponin-T:83//0.01, ALT / AST:[**7-6**], Alk Phos / T Bili:66/0.5, Amylase
   / Lipase:55/27, Differential-Neuts:81.4 %, Lymph:14.5 %, Mono:2.8 %,
   Eos:1.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:216 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   73 yo female with PMH significant for ILD on home O2, diastolic CHF,
   cor pulmonale, s/p liver transplant on immunosuppression,
   post-transplant myeloproliferative disorder s/p CHOP and rituximab who
   was initially admitted to hospital after a mechanical fall for pain
   control who is now being transferred to the MICU for
   hypercarbic/hypoxic respiratory failure in the setting of emesis
   .
   # Hypercarbic/hypoxic respiratory failure: In the setting of witnessed
   emesis prior to decompensation, it is reasonable to suspect aspiration
   pneumonia. Also, given her elevated PCO2 on ABGs, she has had increased
   CO2 retention for some time, and may have worsening underlying
   pulmonary disease. Post-intubation she did well on AC, and during
   rounds was able to tolerate PS. Will continue to wean as tolerated,
   keeping in mind her small reserve. Also in setting of high fever and
   SVT last night, it may not take much for her to decompensate. While the
   family is ok with intubation, they do not wish to escalate level of
   care so pressors and compressions would not be appropriate should she
   decompensates.
   - switch back to Vancomycin/Zosyn for 5 more days to cover for PNA
   - wean as tolerated today, eval for extubation
   -monitor fluid status to avoid gross pulmonary edema, IV Lasix prn
   -nebs prn
   -will d/w pt and family plans options and status of resp support
   .
   # SVT: Pt had sinus tachycardia to SVT on [**12-13**], ? of atrial
   fibrillation w/PACs vs MAT. Unclear at this point if it could be a
   combination of both, in the setting of pulmonary disease and sepsis.
   Was not resolved with po toprol, IV lopressor and finally was started
   on amiodarone drip. She reverted in the morning back to NSR. It is
   possible she may have reverted on her own, given her significant
   improvement today. At this point, would attempt to restart her home
   beta blocker and take off amiodarone (not an ideal medication given her
   underlying pulmonary disease).
   -d/c
d amiodarone [**12-14**]
   -monitor on telemetry
   -advanced toprol to 50mg po tid
   -if reverts to SVT reload with amiodarone
   .
   # s/p fall: no evidence of fracture. Complained of back pain during
   rounds this AM, which was present while she was on the wards. Will
   avoid more narcotics- currently she is written for bolus fentanyl,
   Tylenol and has lidocaine patch. Pain well controlled minus lidocaine
   patch.  Now pt with no c/o pain
 will d/c fetanyl and lidocaine.
   Tylenol PRN
   - PT following
   .
   # DM: Good FSBG control. Currently NPO and on sliding scale.  Will
   adjust accordingly when tube feeds start
   .
   # ILD: Pulmonary following, resistant to steroids as outpatient
   treatment.  For now, treat for hypercarbic/hypoxic respiratory failure.
   - wean off ventilator if tolerates PS
   - treat PNA
   - alb/atrovent nebs
   -currently no role for steroids
   .
   # Emesis: unclear cause. History of one dose of ultram written for on
   the floor however it is unclear if this was the cause of her emesis.
   Has not recurred overnight, not tender to palp on exam, LFTs normal.
   Tac level pending. CE negative.
   - OG in place
   - currently resolved, will start tube feeds today based on nutrition
   recs
   .
   # PTLD: no known active issues currently.
   - LFTs normal
   - continue tacrolimus
   .
   # HTN: significantly hypotensive overnight, held beta blocker. Will
   restart today given improvement.
   - On toprol 50mg TID
   .
   # Hypothyroidism: Continue Levothyroxine
   .
   # Access: PIV  - PICC eval and possible placement today
   .
   # FEN: will start tube feeds if not intubated today, replete
   electrolytes prn
   .
   # Prophylaxis: Heparin SC 5000 tid, PPI
   - Bactrim M/W/F
   .
   # Code status: DNR (DNI ok); no escalation in care per family
   .
   # Contact: [**Name (NI) 3326**] [**Name (NI) 5141**] [**Telephone/Fax (1) 7069**], [**Doctor First Name 518**] (daughter)
   [**Telephone/Fax (1) 7085**]
   .
   # Dispo: ICU for now
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 NAUSEA / VOMITING
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-12-13**] 12:10 AM
   20 Gauge - [**2125-12-13**] 09:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2125-12-17 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2125-12-16**] 02:41 PM
 ARTERIAL LINE - STOP [**2125-12-16**] 10:11 PM
   - self diuresing
   -for IR PICC today
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2125-12-15**] 04:00 AM
   Vancomycin - [**2125-12-16**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2125-12-17**] 12:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-17**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.1
   HR: 81 (74 - 96) bpm
   BP: 106/48(57) {88/44(57) - 124/59(74)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    600 mL
                                                                    229 mL
   PO:
                                                                     60 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,687 mL
                                                                    230 mL
   Urine:
                                                                  1,687 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,087 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 286 (286 - 332) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.46/50/111/38/10
   Ve: 7.8 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: NAD, more alert than yesterday, intubated
   HEENT: NCAT MMM anicteric
   Cardiovascular: tachycardic, irregular rhythm no m/r/g appreciated
   given distant breath sounds
   Respiratory / Chest: Crackles, diffusely diminished throughout
   Abdominal: Soft, Bowel sounds present, Distended, Obese, nontender to
   palp
   Extremities: Right: 1+, Left: 1+ dp pulses, warm, 1+ edema
   Neurologic: Responds to voice and commands, on minimal sedation,
   intubated.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   9.3 g/dL
   126 mg/dL
   0.9 mg/dL
   38 mEq/L
   3.8 mEq/L
   19 mg/dL
   93 mEq/L
   137 mEq/L
   26.7 %
   5.6 K/uL
        [image002.jpg]
                            [**2125-12-13**]  07:40 PM
                            [**2125-12-14**]  01:45 AM
                            [**2125-12-14**]  03:12 AM
                            [**2125-12-14**]  04:20 AM
                            [**2125-12-14**]  03:40 PM
                            [**2125-12-15**]  04:10 AM
                            [**2125-12-16**]  06:26 AM
                            [**2125-12-16**]  06:42 AM
                            [**2125-12-16**]  11:50 AM
                            [**2125-12-17**]  05:55 AM
   WBC
   5.8
   6.4
   4.9
   5.6
   Hct
   26.7
   28.1
   26.3
   26.7
   Plt
   190
   242
   198
   219
   Cr
   1.4
   1.1
   1.0
   0.9
   TCO2
   39
   42
   43
   42
   40
   37
   Glucose
   136
   109
   100
   126
   Other labs: PT / PTT / INR:12.7/24.7/1.1, CK / CKMB /
   Troponin-T:83//0.01, ALT / AST:[**7-6**], Alk Phos / T Bili:66/0.5, Amylase
   / Lipase:55/27, Differential-Neuts:81.4 %, Lymph:14.5 %, Mono:2.8 %,
   Eos:1.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:216 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   73 yo female with PMH significant for ILD on home O2, diastolic CHF,
   cor pulmonale, s/p liver transplant on immunosuppression,
   post-transplant myeloproliferative disorder s/p CHOP and rituximab who
   was initially admitted to hospital after a mechanical fall for pain
   control who is now being transferred to the MICU for
   hypercarbic/hypoxic respiratory failure in the setting of emesis
   .
   # Hypercarbic/hypoxic respiratory failure: In the setting of witnessed
   emesis prior to decompensation, it is reasonable to suspect aspiration
   pneumonia. Will continue to wean as tolerated, keeping in mind her
   small reserve. Has been doing very well on minimal PS, will attempt to
   decrease to 5/0 today. If she does well, might need to consider trach
   placement.  Having thick secretions which may be barrier to extubation.
   - continue Vancomycin/Zosyn (last day [**12-19**])
   - wean as tolerated today, eval for extubation
   - IV Lasix prn
   -nebs prn
   -will d/w pt and family plans options and status of resp support
   .
   # SVT: Pt had sinus tachycardia to SVT on [**12-13**], ? of atrial
   fibrillation w/PACs vs MAT. Has resolved since.
   -d/c
d amiodarone [**12-14**]
   -monitor on telemetry
   - toprol to 50mg po tid
   -if reverts to SVT reload with amiodarone
   .
   # s/p fall: no evidence of fracture. Pain well controlled minus
   lidocaine patch.  Now pt with no c/o pain.  Tylenol PRN
   - PT following
   .
   # DM: Good FSBG control. Currently NPO and on sliding scale.  Will
   adjust accordingly when tube feeds start
   .
   # ILD: Pulmonary following, resistant to steroids as outpatient
   treatment.  For now, treat for hypercarbic/hypoxic respiratory failure.
   - wean off ventilator if tolerates PS
   - treat PNA
   - alb/atrovent nebs
   .
   # Emesis: unclear cause. History of one dose of ultram written for on
   the floor however it is unclear if this was the cause of her emesis.
   Has not recurred overnight, not tender to palp on exam, LFTs normal.
   Tac level pending. CE negative.
   - OG in place
   - currently resolved, will start tube feeds today based on nutrition
   recs
   .
   # PTLD: no known active issues currently.
   - LFTs normal
   - continue tacrolimus
   .
   # HTN: significantly hypotensive overnight, held beta blocker. Will
   restart today given improvement.
   - On toprol 50mg TID
   .
   # Hypothyroidism: Continue Levothyroxine
   .
   # Access: PIV  - PICC eval and possible placement in AM
   .
   # FEN: TF, replete electrolytes prn
   .
   # Prophylaxis: Heparin SC 5000 tid, PPI
   - Bactrim M/W/F
   .
   # Code status: DNR (DNI ok); no escalation in care per family
   .
   # Contact: [**Name (NI) 3326**] [**Name (NI) 5141**] [**Telephone/Fax (1) 7069**], [**Doctor First Name 518**] (daughter)
   [**Telephone/Fax (1) 7085**]
   .
   # Dispo: ICU for now
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 NAUSEA / VOMITING
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-12-13**] 09:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: